US08609675B2
Step D—Synthesis of 5-(1,4-dioxaspiro[4.5]decan-8-yl)pyrazolo[1,5-a]pyrimidin-7-ol (Int-5e)
To a 20 mL scintillation vial containing ethyl 3-oxo-3-(1,4-dioxaspiro[4.5]decan-8-yl)propanoate (Int-5d, 11.7 mmol, 3.00 g) was added 3-amino-1H-pyrazole (11.7 mmol, 973 mg). The mixture was mixed and heated neat at 100° C. for 3 hours. The resulting off-white solid was taken up in EtOH (100 mL) and reduced in vacuo to remove water formed during cyclization. This solid was taken forward without further purification.

reactant | ethyl 3-oxo-3-(1,4-dioxaspiro[4.5]decan-8-yl)propanoate | 11.7 mmol, 3.00 g | O=C(CC(=O)OCC)C1CCC2(OCCO2)CC1 | C13H20O5
reactant | 3-amino-1H-pyrazole | 11.7 mmol, 973 mg | NC1=NNC=C1 | C3H5N3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-(1,4-dioxaspiro[4.5]decan-8-yl)pyrazolo[1,5-a]pyrimidin-7-ol | O1CCOC12CCC(CC2)C2=NC=1N(C(=C2)O)N=CC1 | C14H17N3O3
